US06297260B1
25a. 2-{[N-(2-Methyl-2-sulfanylpropyl)carbamoyl]methoxy}acetic acid
To an ice-cooled suspension of 1-amino-2-methyl-2-propanethiol hydrochloride (4.21 g, 29.7 mmol) in CH2Cl2 (50 mL) was added Et3N (4.56 mL, 32.7 mmol) followed by diglycolic anhydride (3.43 g, 29.6 mmol). After stirring at room temperature for 30 minutes the reaction was concentrated under vacuum. Cold 2N HCl (50 mL) was added to the residue. The mixture was extracted with EtOAc (5×30 mL). The combined organic extracts were washed with brine (30 mL) and dried over Na2SO4. Concentration and trituration with Et2O:hexane gave the title compound as a white solid (5.50 g, 84.2%). mp 81-82° C.; 1H NMR (300 MHz, CDCl3) δ 8.80 (br s, 1H), 7.48 (br s, 1H), 4.24 (s, 2H), 4.20 (s, 2H), 3.41 (d, J=6.4 Hz, 2H), 1.59 (s, 1H), 1.38 ((s, 6H); 13C NMR (75 MHz, CDCl3) δ 172.8, 170.4, 70.8, 68.4, 51.9, 44.9, 29.8; mass spectrum (API-TIS) m/z 239 (M+NH4), 222 (M+H).

reactant | 1-amino-2-methyl-2-propanethiol hydrochloride | 29.7 mmol, 4.21 g | Cl.NCC(C)(S)C
reactant | Et3N | 32.7 mmol, 4.56 mL | CCN(CC)CC | C6H15N
reactant | diglycolic anhydride | 29.6 mmol, 3.43 g | C1(COCC(=O)O1)=O | C4H4O4
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-{[N-(2-Methyl-2-sulfanylpropyl)carbamoyl]methoxy}acetic acid | 5.50 g, 84.2% | CC(CNC(=O)COCC(=O)O)(C)S | C8H15NO4S
